US05563163
Acetonitrile (20 ml), followed by N,N-diisopropylethylamine (5.8 ml, 33 mmol) were added to 2,4-dimethyl-3-pyridinecarboxylic acid (5.1 g, 33 mmol). The mixture was stirred for 5 minutes, then 2-chloromethyl-4-isopropyl-6-methoxysaccharin (4.3 g, 14 mmol) was added. The reaction mixture was stirred at room temperature for 47 hours, then at 80° C. for 1 hour. The mixture was diluted with ethyl acetate (100 ml), washed with saturated NaHCO3, and the organic layer was dried over Na2SO4. The solvent was removed in vacuo and the residue was recrystallized from ether to afford 3,4 g (57%) of 4-isopropyl-6-methoxy-2-saccharinylmethyl 2,4-dimethylpyridine-3 carboxylate, m.p. 132.1°-133.5° C.

reactant | Acetonitrile | 20 ml | C(C)#N | C2H3N
reactant | N,N-diisopropylethylamine | 33 mmol, 5.8 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2,4-dimethyl-3-pyridinecarboxylic acid | 33 mmol, 5.1 g | CC1=NC=CC(=C1C(=O)O)C | C8H9NO2
reactant | 2-chloromethyl-4-isopropyl-6-methoxysaccharin | 14 mmol, 4.3 g | ClCN1S(=O)(=O)C2=CC(=CC(=C2C1=O)C(C)C)OC | C12H14ClNO4S
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 4-isopropyl-6-methoxy-2-saccharinylmethyl 2,4-dimethylpyridine-3 carboxylate | 3,4 g, 57% | CC1=NC=CC(=C1C(=O)OCN1S(=O)(=O)C2=CC(=CC(=C2C1=O)C(C)C)OC)C | C20H22N2O6S
